US06831175B2
tert-butyl 3-(cyanomethyl)-1H-indole-1-carboxylate
A solution of 3-cyanomethylindole (7.50 g, 48 mmol), di-tert-butyl dicarbonate (11.5 g, 52.8 mmol), and DMAP (300 mg) in dichloromethane (200 mL) was stirred at room temperature overnight. The mixture was concentrated and the residue was purified by flash column chromatography on silica gel with dichloromethane to provide the desired product (11.44 g, 93%). MS (DCI/NH3) m/e 257 (M+H)+.

reactant | 3-cyanomethylindole | 48 mmol, 7.50 g | C(#N)CC1=CNC2=CC=CC=C12 | C10H8N2
reactant | di-tert-butyl dicarbonate | 52.8 mmol, 11.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 300 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | tert-butyl 3-(cyanomethyl)-1H-indole-1-carboxylate | 11.44 g, 93% | C(#N)CC1=CN(C2=CC=CC=C12)C(=O)OC(C)(C)C | C15H16N2O2
